US08242133B2
A mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.69 g of potassium carbonate, 0.30 g of isopropylamine and 3 ml of DMF was stirred while heating at 50° C. for 1.5 hours and at 80° C. for 4 hours. To the mixture, 0.30 g of isopropylamine was added and stirred while heating for further three hours. To the reaction mixture, water was added, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.21 g of isopropyl-[4-(5-trifluoromethylbenzoxazole-2-yl)pyridin-3-yl]amine (hereinafter, referred to as “active compound 85”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | potassium carbonate | 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropylamine | 0.30 g | C(C)(C)N | C3H9N
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | isopropylamine | 0.30 g | C(C)(C)N | C3H9N
solvent | water | O | H2O
product | isopropyl-[4-(5-trifluoromethylbenzoxazole-2-yl)pyridin-3-yl]amine | 0.21 g | C(C)(C)NC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C16H14F3N3O
